US07399759B2
tert-Butyl 6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxylate
A mixture of tert-butyl 6-cyano-2-pyridinecarboxylate (1.1 g, 5.3 mmol), methyl thiosalicylate (1.8 g, 10.7 mmol), triethylamine (2.0 ml, 14.3 mmol) and toluene (4 ml) was refluxed for 12 hrs. After cooling, the precipitated crystals were collected by filtration, recrystallized from tetrahydrofuran-hexane to give the titled compound (1.3 g, 70%).

reactant | tert-butyl 6-cyano-2-pyridinecarboxylate | 5.3 mmol, 1.1 g | C(#N)C1=CC=CC(=N1)C(=O)OC(C)(C)C | C11H12N2O2
reactant | methyl thiosalicylate | 10.7 mmol, 1.8 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridinecarboxylate | 1.3 g, 70% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)C(=O)OC(C)(C)C | C18H16N2O3S
